US07780956B2
Behenic acid (LUNAC BA, manufactured by Kao Corporation) and dimethyl aminopropylamine were subjected as starting materials to amidation reaction to give behenic acid dimethylaminopropylamide. The purity was 98%, and other components include unreacted behenic acid, unreacted amine, water, etc. The composition of the fatty acid residue (R4CO) was C17H35CO/C19H39CO/C21H43CO/C23H47CO=1%/9%/88%/2%.

reactant | Behenic acid | C(CCCCCCCCCCCCCCCCCCCCC)(=O)O | C22H44O2
reactant | dimethyl aminopropylamine | CN(CCCN)C | C5H14N2
product | behenic acid dimethylaminopropylamide | CN(C)CCCNC(CCCCCCCCCCCCCCCCCCCCC)=O | C27H56N2O
